US07951826B2
In Scheme D, Ra, Ra′, Rc, Rc′, Re, Rg and X are as previously defined. In Scheme D (step 1), the halide can be displaced by either a nucleophilic aromatic substitution or transition metal catalyzed reaction. For example, methyl-6-chloronicotinate and 2,4-difluorophenol is dissolved in a suitable solvent such as DMF. To the reaction mixture is added a suitable base such as potassium carbonate monohydrate and the heated at reflux for a period of 2 to 18 hours to yield [6-(2,4-Difluoro-phenoxy)-nicotinic acid methyl ester. The reaction is concentrated and purified according to techniques well known in the art. These resulting esters formed in Scheme E, Step 1 can be further elaborated to final compounds using the procedures described in Scheme B, step 2 and 3.

reactant | methyl-6-chloronicotinate | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | potassium carbonate monohydrate | O.C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2,4-Difluoro-phenoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OC1=C(C=C(C=C1)F)F)=O | C13H9F2NO3
